US07361677B2
Sulfamic acid 4-{3-[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-propylsulfanyl}-phenyl ester (CAB02184, STX597)
Sulphamoyl chloride solution in toluene (3 mL, 0.7 M, 2.1 mmol) was concentrated under reduced pressure (30° C. water bath temperature) to ca. 0.5 mL volume. The residue was cooled to 0° C. (ice bath) and N,N-dimethylacetamide (5 mL) was added. 4-{[3-(4-hydroxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB02182, 140 mg, 0.40 mmol) was added to the colourless solution and the mixture was stirred for 18 hours at room temperature. Ethyl acetate (50 mL) and water (50 mL) were added to the solution, the organic layer was separated, washed with water (2×30 mL) and brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in a small amount of acetone and precipitated by addition of hexane. The precipitate was filtered off and dried under high vacuum. Yield: 139 mg (81%) light yellow powder. 1H-NMR (400 MHz, d6-DMSO) δ=1.74 (tt, J=7.0, 7.0 Hz, 2H), 3.97 (t, J=7.0 Hz, 2H), 6.62 (d, J=9.0 Hz, 2H), 7.22 (d, J=8.6 Hz, 2H), 7.43 (d, J=8.6 Hz, 2H), 7.74 (d, J=9.0 Hz, 2H), 8.03 (s, 2H, —NH2), 9.00 (s, 2H). LRMS (FAB+): 431.1 (100, [M+H]+).

reactant | Sulphamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | toluene | 2.1 mmol, 0.7 M, 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-{[3-(4-hydroxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | 0.40 mmol, 140 mg | OC1=CC=C(C=C1)SCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C18H17N5OS
solvent | water | 50 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | Sulfamic acid 4-{3-[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-propylsulfanyl}-phenyl ester | C(#N)C1=CC=C(C=C1)N(CCCSC1=CC=C(C=C1)OS(N)(=O)=O)N1C=NN=C1 | C18H18N6O3S2
